US07192954B2
Step D. tert-Butyl [3-(cyclopropylmethyl)-2-oxo-1,3-diazepan-1-yl]acetate
To a solution of tert-butyl [3-(cyclopropylmethyl)-2-oxo-2,3,4,7-tetrahydro-1H-1,3-diazepin-1-yl]acetate (250 mg, 0.89 mmol) in EtOH (10 mL) was added 10% Pd/C (9.5 mg) and the reaction stirred vigorously under hydrogen (ca. 1 atm). After 90 min, the catalyst was filtered off and the filtrate was concentrated to yield the title compound as a pale brown solid. MS: m/z=283 (M+1).

reactant | tert-butyl [3-(cyclopropylmethyl)-2-oxo-2,3,4,7-tetrahydro-1H-1,3-diazepin-1-yl]acetate | 0.89 mmol, 250 mg | C1(CC1)CN1C(N(CC=CC1)CC(=O)OC(C)(C)C)=O | C15H24N2O3
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 9.5 mg | [Pd] | Pd
product | tert-Butyl [3-(cyclopropylmethyl)-2-oxo-1,3-diazepan-1-yl]acetate | C1(CC1)CN1C(N(CCCC1)CC(=O)OC(C)(C)C)=O | C15H26N2O3
